US04945161
N,N'-tetra-(2-hydroxyethyl)oxamide (2.64 g, 0.01 mol) and diethanolamine (2.10 g, 0.02 mol) are charged in a reaction flask equipped as described in Example 1 and the reaction mixture is heated to 210° C. for 20 hours. Acetone (15 ml) is then added and the precipitate is recovered by filtration and recrystallized from acetone. N,N'-bis-(2-hydroxyethyl)-piperazine (0.7 g) is thus obtained with a yield on N,N'-tetra(2-hydroxyethyl)oxamide of 40.2%, calculated on the starting diethanolamine.

reactant | diethanolamine | 0.02 mol, 2.10 g | N(CCO)CCO | C4H11NO2
solvent | Acetone | 15 ml | CC(=O)C | C3H6O
product | N,N'-bis-(2-hydroxyethyl)-piperazine | 0.7 g | OCCN1CCN(CC1)CCO | C8H18N2O2
